US09359362B2
(7R)-7-(4-Cyanophenyl)-2-(ethylamino)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile
Under an atmosphere of argon protective gas, benzyl {(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}(ethyl)carbamate (17.0 mg, 29 μmol) was dissolved in degassed methanol (2 ml). After addition of palladium on activated carbon (10%; 2 mg), the mixture was hydrogenated under a hydrogen atmosphere (˜1 atm) at RT for 1 h. The reaction mixture was then filtered, the filtrate was concentrated under reduced pressure and the residue was purified by preparative HPLC (Kromasil C18 column, 50×20 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (10.9 mg, 83% of theory).

reactant | benzyl {(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}(ethyl)carbamate | 29 μmol, 17.0 mg | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)N(C(OCC2=CC=CC=C2)=O)CC)C2=CC(=CC=C2)C(F)(F)F)C | C31H24F3N7O2
solvent | methanol | 2 ml | CO | CH4O
catalyst | palladium on activated carbon | 2 mg | [Pd] | Pd
product | (7R)-7-(4-Cyanophenyl)-2-(ethylamino)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | C(#N)C1=CC=C(C=C1)[C@@H]1C(=C(N(C=2N1N=C(N2)NCC)C2=CC(=CC=C2)C(F)(F)F)C)C#N | C23H18F3N7
